US06660744B1
A mixture of N-phenyl—N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine (Intermediate AE) (0.33 g, 0.0011 mol), cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (Intermediate AC) (0.43 g, 0.00097 mol), tetrakis(triphenylphosphine)palladium (0.0067 g, 0.000058 mol) and sodium carbonate (0.26 g, 0.0024 mol) was heated in a mixture of ethylene glycol dimethyl ether (16 mL) and water (8 mL) at 80° C. for 16 hours under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and solvents were removed under reduced pressure. The residue was partitioned between saturated aqueous sodium bicarbonate solution (50 mL) and ethyl acetate (50 mL), the organic layer separated and the aqueous layer further extracted with ethyl acetate twice. The combined organic extracts were dried over magnesium sulfate and evaporated under reduced pressure to give a tan solid which was purified by flash column chromatography on silica using dichloromethane/triethylamine/methanol (92:7:1) as a mobile phase to give 3-(4-anilinophenyl)-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine as a white solid (0.400 g, 0.00074 mol). It was dissolved at reflux in ethanol (17 mL) and a preheated solution of maleic acid (0.342 g, 0.003 mol) in ethanol (8 mL) was added. The mixture was refluxed for 10 min, cooled to ambient temperature and the precipitate collected by filtration, washed with ethyl acetate and dried to give cis-3-(4-anilinophenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine trimaleate (0.44 g, 0.00053 mol) 1H NMR (DMSO-d6, 400 MHz) 8.45 (s, 1H), 8.23 (s, 1H) 7.52 (d, 2H), 7.28 (m, 2H), 7.20 (m, 4H), 6.89 (t, 1H), 6.19 (s, 6H), 4.83 (m, 1H), 3.1 (br, 9H), 2.72 (s, 3H), 2.28 (m, 2H), 2.07 (m, 2H), 1.74 (m, 4H); RP-HPLC (Delta Pak C18, 5μm, 300 A, 15 cm; 5%-85% acetonitrile—0.1M ammonium acetate over 20 min, 1 mL/min) Rt 13.12 min. MH+483.

reactant | N-phenyl—N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amine | 0.0011 mol, 0.33 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H22BNO2
reactant | cis-3-iodo-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00097 mol, 0.43 g | IC1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C16H24IN7
reactant | sodium carbonate | 0.0024 mol, 0.26 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 16 mL | COCCOC | C4H10O2
solvent | water | 8 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.000058 mol, 0.0067 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-anilinophenyl)-1-[4-(4-methylpiperazino)-cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00074 mol, 0.400 g | N(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCC(CC2)N2CCN(CC2)C | C28H34N8
